US05688807
5,7-Dimethyltryptamine hydrochloride was prepared (2.86 g) as described for 5-methyl-7-bromotryptamine hydrochloride in Example 4, except using 2,4-dimethylphenylhydrazine hydrochloride (15.0 g) as starting material.

reactant | 5-methyl-7-bromotryptamine hydrochloride | Cl.CC1=CC(=C2NC=C(CCN)C2=C1)Br
reactant | 2,4-dimethylphenylhydrazine hydrochloride | 15.0 g | Cl.CC1=C(C=CC(=C1)C)NN
product | 5,7-Dimethyltryptamine hydrochloride | Cl.CC1=CC(=C2NC=C(CCN)C2=C1)C | InChI=1S/C12H16N2.ClH/c1-8-5-9(2)12-11(6-8)10(3-4-13)7-14-12;/h5-7,14H,3-4,13H2,1-2H3;1H
